US07700778B2
Step E: Preparation of tert-butyl 4-{4-chloro-2-[(1S)-1-(azido)ethyl]phenyl}-3,6-dihydropyridine-1-carboxylate
A solution of diethyl azodicarboxylate (49.6 mL, 0.315 mol) was added dropwise to a stirred mixture of tert-butyl 4-{4-chloro-2-[(1R)-1-hydroxyethyl]phenyl}-3,6-dihydropyridine-1(2H)-carboxylate (26.7 g, 78.9 mmol), Zn(N3)2.2Py (prepared according to: Viaud, M-C; Rollin, P. Synthesis 1990:130-131) (48.5 g, 0.158 mol), triphenylphosphine (82.7 g, 0.315 mol) and imidazole (21.5 g, 0.315 mol) in dichloromethane at approximately 0° C. After the addition, the resulting mixture was allowed to warm to ambient temperature and stirred vigorously for 3 days. The reaction mixture was filtered through a short column of silica gel eluted with the appropriate volume of dichloromethane to remove excess salts and polar byproducts. The filtrate was concentrated in vacuo and the crude residue was purified by flash chromatography on silica gel (12.5% ethyl acetate/hexanes as eluent) to furnish the title compound as a viscous pale yellow oil.

reactant | diethyl azodicarboxylate | 0.315 mol, 49.6 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tert-butyl 4-{4-chloro-2-[(1R)-1-hydroxyethyl]phenyl}-3,6-dihydropyridine-1(2H)-carboxylate | 78.9 mmol, 26.7 g | ClC1=CC(=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)[C@@H](C)O | C18H24ClNO3
reactant | triphenylphosphine | 0.315 mol, 82.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 0.315 mol, 21.5 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Zn(N3)2 | [Zn](N=[N+]=[N-])N=[N+]=[N-]
product | tert-butyl 4-{4-chloro-2-[(1S)-1-(azido)ethyl]phenyl}-3,6-dihydropyridine-1-carboxylate | ClC1=CC(=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)[C@H](C)N=[N+]=[N-] | C18H23ClN4O2
